US07462614B2
A solution of ethyl 2-oxo-3-{[3-(trifluoromethyl)benzoyl]amino}butanoate (8.75 g, 27.6 mmol) and aminoguanidine bicarbonate (3.75 g, 27.6 mmol) in EtOH(aq) (80%, 200 mL) was heated at reflux for 3h. Concentration gave crude N-[1-(3-amino-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)ethyl]-3-(trifluoromethyl)benzamide (8.34 g) as a colourless solid which was used without further purification. 1H NMR (DMSO-d6): δ8.87 (d, J=7.5 Hz, 1H), 8.23 (s, 1H), 8.20-8.15 (m, 2H), 7.93-7.89 (m, 1H), 7.75-7.69 (m, 1H), 7.00 (bs, 1H), 5.16 (p, J=7.1 Hz, 1H), 1.40 (d, J=7.1 Hz, 3H). MS m/z 326 (M−1).

reactant | ethyl 2-oxo-3-{[3-(trifluoromethyl)benzoyl]amino}butanoate | 27.6 mmol, 8.75 g | O=C(C(=O)OCC)C(C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C14H14F3NO4
reactant | aminoguanidine bicarbonate | 27.6 mmol, 3.75 g | C(O)(O)=O.NNC(=N)N
solvent | EtOH | 200 mL | CCO | C2H6O
product | N-[1-(3-amino-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)ethyl]-3-(trifluoromethyl)benzamide | 8.34 g | NC1=NN=C(C(N1)=O)C(C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C13H12F3N5O2
